US08137821B2
1.85 g (7 mmol) of dimethylhydroxymethyl-4-benzoylphenylacetylene and 294 mg (7.35 mmol) of NaOH (KISHIDA CHEMICAL CO., Ltd., 0.7 mm granular, 98%) were placed in a 50 mL two-neck flask equipped with a reflux condenser and the air inside the flask was replaced with Ar. 35 mL of toluene was added thereto and the mixture was refluxed at 120° C. for 0.5 hour. Toluene was added to the reaction mixture and the mixture was washed with a saturated aqueous ammonium chloride solution and dried over magnesium sulfate, followed by distilling off of the solvent under reduced pressure by an evaporator. The crude reaction product was purified by column chromatography (Hexane/AcOEt=10/1) using silica gel to give 4-benzoylphenylethyne as a pale brown solid (1.1 g, yield: 76%).

reactant | dimethylhydroxymethyl-4-benzoylphenylacetylene | 7 mmol, 1.85 g | CC=1C(=C(C=CC1C(C1=CC=CC=C1)=O)C#CCO)C | C18H16O2
reactant | NaOH | 7.35 mmol, 294 mg | [OH-].[Na+]
solvent | Toluene | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 35 mL | C1(=CC=CC=C1)C | C7H8
product | 4-benzoylphenylethyne | 1.1 g, yield: 76% | C(C1=CC=CC=C1)(=O)C1=CC=C(C=C1)C#C | C15H10O
